US06921759B2
Step 2: Preparation of N-(4-fluorobenzyl)-8-hydroxy-5(6-methyl-1,1-dioxido-1,2,6-thiadiazinan-2yl)-1,6-naphthyridine-7-carboxamide
To a solution of 5-bromo-N-(4-fluorobenzyl)-8-hydroxy-1,6-naphthyridine-7-carboxamide (0.300 g, 0.80 mmol), 2-methyl-1,2,6-thiadiazinane 1,1-dioxide (0.144 g, 0.96 mmol) and Cu2O (0.086 g, 0.60 mmol) in pyridine (6.0 mL) were heated at reflux for 16 hr. The reaction was filtered and the solids washed with CHCl3 (100 mL). The filtrate was stirred for 1 hr with disodium ethylenediamine tetraacetate (0.5 g) in water (25 mL) in the presence of air. The organic extracts were stirred for 1 hr with disodium ethylenediamine tetraacetate (0.50 g in water 50 mL) in the presence of air. The organic extracts were dried (MgSO4) and the solvent evaporated in vacuo. The residue was purified by preparative HPLC (Gilson semi preparative HPLC system and a YMC Combiprep Pro Column (50×20 mm I.D., C18, S-5 um, 120A) eluting with 5-95% acetonitrile/water (0.1% TFA) at 15 ml/min) to afford the title compound after lyophilization.

reactant | 5-bromo-N-(4-fluorobenzyl)-8-hydroxy-1,6-naphthyridine-7-carboxamide | 0.80 mmol, 0.300 g | BrC1=C2C=CC=NC2=C(C(=N1)C(=O)NCC1=CC=C(C=C1)F)O | C16H11BrFN3O2
reactant | 2-methyl-1,2,6-thiadiazinane 1,1-dioxide | 0.96 mmol, 0.144 g | CN1S(NCCC1)(=O)=O | C4H10N2O2S
solvent | pyridine | 6.0 mL | N1=CC=CC=C1 | C5H5N
product | N-(4-fluorobenzyl)-8-hydroxy-5(6-methyl-1,1-dioxido-1,2,6-thiadiazinan-2yl)-1,6-naphthyridine-7-carboxamide | FC1=CC=C(CNC(=O)C2=NC(=C3C=CC=NC3=C2O)N2S(N(CCC2)C)(=O)=O)C=C1 | C20H20FN5O4S
